US06703229B2
Dihydroconiferyl aldehyde (DCAL) was synthesized as follows: To a solution of coniferyl alcohol (720 mg, 4 mmol) in methanol (10 ml) was added palladium-charcoal (10%, 100 mg), with the resulting solution stirred under an H2 atmosphere for 4 hours (h) at ambient temperature. After the catalyst was removed by filtration, the resulting solution was evaporated to dryness in vacuo. The resulting residue was dissolved in acetone, subjected to preparative TLC and extracted with acetone; evaporation of the solvent afforded dihydroconiferyl alcohol (DCA, 650 mg, 90%). To the purified DCA (600 mg, 3.3 mmol) in CH2Cl2 (5 ml) was added DMSO (3.4 ml, 36.6 mmol), triethylamine (1 ml, 13.2 mmol), and pyridine sulfur trioxide (1.58 mg, 9.9 mmol), with the resulting mixture stirred for 30 min at ambient temperature. After reaction, the solution was poured into H2O in a separatory funnel, extracted with ether, washed successively with saturated (NH4)Cl, saturated NaHCO3, H2O and saturated NaCl, and finally with NaSO4. The solvent was evaporated and the resulting extract subjected to preparative TLC, with dihydroconiferyl aldehyde extracted with acetone. Evaporation of the solvent afforded dihydroconiferyl aldehyde (202 mg, 1.1 mmol, 33%).

reactant | coniferyl alcohol | 4 mmol, 720 mg | C(\C=C\C1=CC(OC)=C(O)C=C1)O | C10H12O3
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-charcoal | 100 mg | [Pd] | Pd
product | dihydroconiferyl alcohol | 650 mg, 90% | C(\C=C\C1CC(OC)=C(O)C=C1)O | C10H14O3
